US05719141
a) 3(R,S)-Ethylsulfonyl-1,2,3,4-tetrahydroquinoline
A solution of 0.3 g of 3-ethylsulfonylquinoline in 15 ml of glacial acetic acid is hydrogenated in the presence of 30 mg of platinum oxide at 50° C. for 22 h. After working up analogously to Example 52c) and FC over 30 g of silica gel (mobile phase I), the pure title compound is obtained: mp 88°-90° C., Rf (K)=0.51; IR(KBr): 3380(s), 1590, 1500(m), 1270(s), 1130(s), 750(s); anal. calc. for C11H15NO2S: C58.64%, H6.71%, N6.22%; found C58.95,6.75, N6.21.

reactant | 3-ethylsulfonylquinoline | 0.3 g | C(C)S(=O)(=O)C=1C=NC2=CC=CC=C2C1 | C11H11NO2S
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
catalyst | platinum oxide | 30 mg | [Pt]=O
product | 3(R,S)-Ethylsulfonyl-1,2,3,4-tetrahydroquinoline | C(C)S(=O)(=O)C1CNC2=CC=CC=C2C1 | C11H15NO2S
